US08476297B2
N-(4-Fluorophenyl)-4,4-dimethyl-1-(4-(trifluoromethyl)phenyl)-3,4-dihydro-isoquinoline-2(1H)-carboxamide
A 25-mL round-bottomed flask was charged with 4,4-dimethyl-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline (118 mg, 0.39 mmol), 4-fluorophenyl isocyanate (43.4 μL, 0.39 mmol) and DCE (5 mL). The reaction mixture was heated at 80° C. for 2 h and the solvent was then removed under vacuum. Purification by silica gel chromatography (20-30% EtOAc in hexanes) provided the title compound as a white solid. MS (ESI, positive ion) m/z: 443 (M+H).

reactant | 4,4-dimethyl-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | 0.39 mmol, 118 mg | CC1(CNC(C2=CC=CC=C12)C1=CC=C(C=C1)C(F)(F)F)C | C18H18F3N
reactant | 4-fluorophenyl isocyanate | 0.39 mmol, 43.4 μL | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | N-(4-Fluorophenyl)-4,4-dimethyl-1-(4-(trifluoromethyl)phenyl)-3,4-dihydro-isoquinoline-2(1H)-carboxamide | FC1=CC=C(C=C1)NC(=O)N1C(C2=CC=CC=C2C(C1)(C)C)C1=CC=C(C=C1)C(F)(F)F | C25H22F4N2O
